US07189867B1
Preparation of 7-bromo-1,1,1-trifluoro-heptan-2-ol
Subsequent treatment of 6-bromo-hexanal with trimethyl(trifluoromethyl)silane in the presence of a catalytic amount of tertrabutyl ammonium fluoride (TBAF) resulted in the nucleophilic addition to the carbonyl and afforded the corresponding α-trifluoromethyl alcohol in a single step, a modification of Krishnamurti et al., J. Org. Chem. 1991, 56, 984. A 1.12 g sample of 6-bromo-hexanal (6.26 mmol) was combined with 8 mL freshly distilled THF and trimethyl(trifluoromethyl)silane (1.07 g, 7.51 mmol), all in a 50 mL round bottomed flask under a nitrogen atmosphere. The solution was allowed to stir for 20 min at rt and then cooled to 0° C. for 15 min prior to the addition of 20 mg of TBAF. After observation of initial yellow color formation, the ice bath was removed and solution allowed to warm to room temperature and stirred overnight. Disappearance of the carbonyl band of the starting material was confirmed by FTIR. The resulting reaction mixture was hydrolyzed upon addition of 1 mL of 5 M HCl followed by stirring at rt for 5 hr. The resulting reaction mixture was extracted with Et2O (3×75 mL), washed with di-H2O (50 mL), washed with brine (50 mL) and dried over MgSO4. The resulting organic layer was concentrated to afford the desired product (1.48 g). FTIR: 3283, 2946, 2862, 1633, 1463, 1379, 1272, 1161, 1118, 841 cm−1; 19F NMR—79.93 δ (d, J=7, CF3); 1H NMR: 4.09 (t, J=6, 1H), 3.43 (t, J=7, 2H), 2.35 (bs, 1-OH), 1.91 (t, J=7, 2H), 1.87–1.41 δ (m, 6H); 13C NMR: 121.7 (q, CF3), 82.3, 34.7, 28.7, 25.4, 23.0, 20.8 δ. Anal. Calcd for C7H12BrF3O: C, 33.76; H, 4.86. Found: C, 33.91; H, 4.57.

reactant | 6-bromo-hexanal | 6.26 mmol | BrCCCCCC=O | C6H11BrO
reactant | trimethyl(trifluoromethyl)silane | 7.51 mmol, 1.07 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | HCl | 5 M, 1 mL | Cl | ClH
catalyst | TBAF | 20 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | 7-bromo-1,1,1-trifluoro-heptan-2-ol | 1.48 g | BrCCCCCC(C(F)(F)F)O | C7H12BrF3O
